Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg weakness, difficulty walking
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with past medical 
history significant for depression who presents for further 
neurologic workup in the setting of worsening right leg weakness 
and difficulty with ambulation, thought to represent multiple 
sclerosis.

The patient was initially seen by neurology here at ___ 
___ back in ___ when the patient was ___ 
years old.  At this time she was complaining of right-sided 
tingling in her arm.  At the height of these episodes they were 
occurring approximately every ___ days.  She was also having 
some right sided arm weakness and significant 
fatigue/exhaustion.  MRI of the cervical spine at that time 
showed foci of increased signal at C2-C3 and C5-C6 suggestive of 
a demyelinating process. 

MRI brain with and without contrast was also done which showed 
multiple small cortical and periventricular FLAIR lesions. CSF 
was notable for oligoclonal bands.  Because she only had one 
clinical episode at that time, treatment was not initiated.  She 
was counseled to return should she have further neurologic
symptoms and a repeat MRI was scheduled for ___ year later.  In 
the interim, patient was doing well and she did not follow-up 
here at ___.  However over the course of the last ___ years, 
patient started to notice progression of a multitude of 
neurologic symptoms including R leg weakness that has progressed 
to the point that patient presented for urgent evaluation to 
___. 

At first ___ years ago, patient noted subtle right leg pain and 
weakness, particularly after exerting herself or exercising.  
Over the course of the past ___ years, she states that she 
developed intermittent right leg weakness to the point that her 
leg would give out from underneath her,  which has gotten worse
over the past few months.  She also is complaining of increased 
falls over the past ___ year.  She states that her fatigue has 
become so significant that she spends most of her day in bed and 
has not been able to work for the past ___ years.  

As these symptoms progressed and worsened over the past year 
(timeline is very unclear, patient states her symptoms worsened 
over ___ year, then states it worsened over the past few months), 
she established care with a neurologist in ___.  The 
Neurologist Dr. ___ a lumbar puncture in ___ of this 
year, results are still pending.  MRI of the spine was also done
on ___  which showed multiple confluent areas of 
nonenhancing hyperintensities throughout the C-spine.  MRI of 
the brain showed ___ scattered FLAIR high signal intensities and 
gliosis in the cerebral white matter and 1 or 2 foci in the 
periventricular white matter, labeled as nonspecific.  Lumbar 
spine and thoracic spine did not have any lesions.

Patient visited her neurologist again today with worsening 
symptoms.  She described paresthesias throughout her body and 
worsening ambulation, unsteadiness, and right leg weakness that 
has progressed over the past few weeks.  Patient has an 
appointment with an MS specialist in ___ on ___, 
however patient wanted to be seen more urgently by neurology as
she feels that she cannot wait any longer and is at risk for 
falls.

In regards to other neurologic symptoms, the patient states that 
she gets intermittent headaches. She also describes difficulty 
with language and that she uses the wrong word often and mixes 
up her sentence structure, she states that she sometimes has 
blurry vision but none recently, denies any bowel
or bladder incontinence at this time.
 
Past Medical History:
1.  Anxiety and depression
2.  Possible MS
3.  Asthma
 
Social History:
___
Family History:
Maternal second cousin with multiple sclerosis, and a 
grandmother with ___ disease.  No other family history 
of any neurologic disorders.
 
Physical Exam:
ADMISSION EXAM

Vitals: 96.9, heart rate 68, blood pressure 129/84, respirations
18
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+  5    5  4+     5     5   5
R  5    ___   ___  4   5    4  4      5     5   5
*** Patient gives poor effort, and often says "I cannot" without
giving much effort.  With a few seconds of effort she does seem
to have full strength in the quads and hamstring on the left. 
The right TA and ___: patient states she cannot move them but
with a slight tickle to the bottom of the foot she activates
these muscles very quickly and briskly.

-Sensory: Proprioception is intact in the great toes 
bilaterally.
Patient endorses decreased pinprick in the left forearm of about
10% (90% intact).  She also endorses decreased sensation to
pinprick from the middle of the left shin down to the great toe
by about 20% (80% intact.  And lastly she endorses decreased
sensation by about 50% on the left side only from T10-T12.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2 
R  3  2    3    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Patient is very cautious, she puts all of her weight on
the left leg and circumduct the right leg.  She holds onto the
walls and states she cannot let go whether she will fall down. 
She does not allow me to test Romberg as she holds onto the 
wall.
She cannot tandem, or walk on her toes.

==========================================

DISCHARGE EXAM

 Vitals: T: 97.8 BP: 103/70 HR: 70 RR: 18 SaO2: 98% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Language is fluent with
intact comprehension. Able to follow both midline and
appendicular commands. 

-Cranial Nerves: EOMI without nystagmus. Face symmetric at rest
and with activation. Hearing intact to conversation. Tongue
protrudes in midline.

-Motor: Normal bulk, increased tone in right > left leg. No
adventitious movements, such as tremor, noted.
   IP Quad Ham TA ___ 
 L 5   5    5  5-    5    
 R 4+  5    4+ 4+    5    

-Sensory: Intact to LT and PP throughout, although diminished in
distal bilateral lower extremities below knee with hyperesthesia
in bilateral soles of feet. No extinction to DSS.

-DTRs: ___.

-Coordination: Deferred.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 06:15AM BLOOD WBC-5.7 RBC-4.16 Hgb-12.8 Hct-38.1 MCV-92 
MCH-30.8 MCHC-33.6 RDW-11.9 RDWSD-39.7 Plt ___
___ 12:50AM BLOOD Neuts-52.5 ___ Monos-12.1 Eos-3.0 
Baso-1.0 Im ___ AbsNeut-3.63 AbsLymp-2.15 AbsMono-0.84* 
AbsEos-0.21 AbsBaso-0.07
___ 06:15AM BLOOD ___ PTT-32.1 ___
___ 06:15AM BLOOD Glucose-92 UreaN-9 Creat-0.8 Na-143 K-4.0 
Cl-106 HCO3-23 AnGap-14
___ 06:15AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.0
___ 06:15AM BLOOD TSH-5.0*
___ 06:15AM BLOOD Free T4-1.4
___ 12:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 12:30AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 12:30AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 12:30AM URINE UCG-NEGATIVE
___ 12:30AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 12:30 am URINE

MICROBIOLOGY

                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp.

IMAGING

Review of OSH C- and T-spine MRI ___ & ___ notable for 
cord atrophy and non-enhancing T2 hyperintensities suggestive of 
chronic
demyelinating changes.
 
Brief Hospital Course:
1. Multiple sclerosis: Examination notable for right leg 
weakness in an upper motor neuron pattern as well as increased 
tone in the legs bilaterally with upgoing plantar response on 
the left, all stable during the admission. Review of recent 
outpatient MRI of the spine revealed chronic demyelinating 
changes in the C- and T-spine without evidence of enhancement; 
report from recent brain MRI also negative for active 
demyelinating lesion. Consequently, glucocorticoid therapy was 
deferred during the admission. At patient's request, follow-up 
was arranged with Dr. ___ at ___. Per physical 
therapy recommendations, a prescription was also provided for 
outpatient physical therapy. Of note, patient reported 
subjective improvement in weakness off baclofen, which had 
reportedly been started due to concerns for bladder spasm 
causing urge incontinence; this medication was held at time of 
discharge.

2. Asymptomatic bacteriuria: Urine culture yielded group A 
Streptococcus or Lactobacillus spp., albeit with unremarkable 
urinalysis and absence of dysuria or urinary frequency or 
urgency above baseline; antibiotic therapy was not initiated as 
a result.

Transitional issues:
1. Outpatient physical therapy and ___ clinic follow-up.

 
Medications on Admission:
1. Multivitamins 1 TAB PO DAILY 
2. Baclofen 10 mg PO TID 
3. Vitamin D 1000 UNIT PO DAILY 
4. Cyanocobalamin 100 mcg PO DAILY 
5. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Cetirizine 10 mg PO DAILY  
2.  Cyanocobalamin 100 mcg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Vitamin D 1000 UNIT PO DAILY  
5.Outpatient Physical Therapy
Please evaluate and treat for leg weakness and gait disturbance.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multiple sclerosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation of progressive difficulty with walking. Review of 
your recent spine MRI with the Neurology and Radiology teams did 
not show signs of active inflammation that would require steroid 
therapy; these images did, however, show signs of previous 
inflammation affecting your upper spinal cord that was likely 
responsible for your leg weakness and walking difficulty. A 
follow-up appointment was arranged for you with one of the MS 
specialists at ___, and you were also evaluated by physical 
therapy who recommended continuing physical therapy after your 
stay.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___